US08791303B2
Preparation of 4-Cycloheptylmethyl-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione
To 5% w/w Pd/C (5 mg) was added a solution of 4-[1-Cycloheptyl-methylidene]-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione (39 mg, 0.12 mmol) in MeOH (10 ml). The reaction was stirred under an atmosphere of H2 (1.5 bar) for 2 hours, filtered through a pad of celite and washed through with MeOH (20 ml). The solvent was removed under reduced pressure to give the desired product as a colourless oil (29 mg) without need for further purification.

reactant | 4-[1-Cycloheptyl-methylidene]-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione | 0.12 mmol, 39 mg | C1(CCCCCC1)C=C1C(C(C(C1)=O)C1=C(C=C(C=C1C)C)C)=O | C22H28O2
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 4-Cycloheptylmethyl-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione | 29 mg | C1(CCCCCC1)CC1C(C(C(C1)=O)C1=C(C=C(C=C1C)C)C)=O | C22H30O2
